.SUBCKT LT1797MD 1 2 3 4 5
*
* input range / phase reversal protection
RIP1 1 111 1.0000e+002
RIP2 2 112 1.0000e+002
DIP1 114 111 DX
DIP2 114 112 DX
VCM 114 4 DC 4.5250e-001
*
* bias  current for Vin > Vdd -1.5V (NPN stage active)
GNPN1 3 500  POLY(2) 111 3  112 3  1.30E-3  5.0e-4  5.0e-4
RNPN1 500  3  1.0e+005
DNPN1 3  500 DX
DNPN2 500 501 DX
DNPN3  501  502 DX
VNPN2  502 3 DC 0.27
RNPN2 501 3 1.0E6
GNPN2  3  1  501 3  -2.05E-7
GNPN3  3  2  501 3  -2.03E-7
*
* input stage
CIN 111 112 4.0000e-013
CIC1 111 99 3.6000e-012
CIC2 112 99 3.6000e-012
GRIN 111 112 111 112 7.5758e-007
VCMEP 303 3 DC 0.8
VCMEN 4 304 DC 1.6
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 304 11 3.5966e+003
RC2 304 12 3.5966e+003
RE1 10 13 1.0000e-001
RE2 10 14 1.0000e-001
C1 11 12 9.6198e-013
IEE 303 10 DC 5.5638e-004
D1 10 303 DX
GA 60 99 11 12 2.7804e-004
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 3.4215e+006
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 3.4215e+006
GR 99 60 605 606 1.0383e+001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 3.1831e-002
ECM 113 111 20 99 5.6234e-006
*
* frequency shaper
RP1 601 99 3.5000e+004
LP1 60 601 1.1141e-003
RP11 60 99 1.4000e+004
GP1 99 61 60 99 1.0000e-004
RP2 61 99 1.0000e+004
CP2 61 99 2.2736e-012
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 2.4444e-010
GB 7 99 6 99 1.3288e+004
R01 7 99 4.9000e+000
R02 7 50 1.0000e-001
R03 50 5 1.5000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.4955e-001
VE 54 50 DC -1.0955e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 6 56 3 1.0000e+000
GVLN 99 6 58 4 1.0000e+000
ECLP 91 0 7 50 2.2222e+002
ECLN 92 0 7 50 2.5641e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.4160e+002
*
* output protection diodes
DOPP 5 3 DX
DOPN 4 5 DX
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 5.4362e-004
*
GPC 31 0 7 50 1.0000e+001
DPC1 3 31 DVC
DPC2 32 4 DVC
RPC1 31 32 1.0E6
RPC2 31 33 9.7531
EPC 33 32 3 4 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL Q1 PNP (IS=1.0196e-015 BF=1791.7 XTB=-3.1272e+000 XTI=3.00961e+000 KF=1.4107e-016)
.MODEL Q2 PNP (IS=9.8079e-016 BF=1850.4 XTB=-3.0746e+000 XTI=2.99039e+000 KF=1.4107e-016)
.MODEL DR D (IS=8.2592e-016 KF=3.2074e-017 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.ENDS LT1797MD
