.SUBCKT LT1800MD 1 2 3 4 5
*
* back-to-back diodes
DIP1 1 114 DX
DIP2 114 2 DX
DIP3 2 115 DX
DIP4 115 1 DX
*
* ESD diodes
DIP5 1 3 DX
DIP6 4 1 DX
DIP7 2 3 DX
DIP8 4 2 DX
*
* reverse input protection
DIP9  11 1 DX
DIP10 12 2 DX
*
* bias  current for Vin > Vdd -1.3V (NPN stage active)
GNPN1 3 500  POLY(2) 1 3  2 3  1.10E-3  5.0e-4  5.0e-4
RNPN1 500  3  1.0e+005
DNPN1 3  500 DX
DNPN2 500 501 DX
DNPN3  501  502 DX
VNPN2  502 3 DC 0.27
RNPN2 501 3 1.0E6
GNPN2  3  1  501 3  -5.50E-7
GNPN3  3  2  501 3  -5.25E-7
*
* input stage
CIN 1 2 2.0000e-013
CIC1 1 99 1.8000e-012
CIC2 2 99 1.8000e-012
GRIN 1 2 1 2 9.3010e-008
VCMEP 303 3 DC 0.8
VCMEN 4 304 DC 1.6
Q1 11 2 13 Q1
Q2 12 111 14 Q2
RC1 304 11 2.1869e+003
RC2 304 12 2.1869e+003
RE1 10 13 8.2191e+000
RE2 10 14 8.2191e+000
C1 11 12 3.0324e-013
IEE 303 10 DC 9.1456e-004
D1 10 303 DX
GA 60 99 11 12 4.5727e-004
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 1.6483e+004
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 1.6483e+004
GR 99 60 605 606 6.3286e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.0610e-003
ECM 111 1 20 99 1.0000e-005
*
* frequency shaper
RP1 601 99 3.6364e+003
CP1 60 601 1.4589e-012
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 61 99 1.0000e+004
CP2 61 99 3.1831e-013
GP2 99 62 61 99 1.0000e-004
RP3 621 99 1.3333e+004
LP3 62 621 7.0736e-005
RP33 62 99 4.0000e+004
GP3 99 6 62 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 3.2000e-011
GB 7 99 6 99 4.4227e+002
R01 7 99 1.1900e+001
R02 7 50 1.0000e-001
R03 50 5 1.2000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.2090e-001
VE 54 50 DC -1.1290e-001
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 6 56 3 1.0000e+000
GVLN 99 6 58 4 1.0000e+000
ECLP 91 0 7 50 2.2222e+002
ECLN 92 0 7 50 2.2222e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 7.7509e+000
*
* output protection diodes
DOPP 5 3 DX
DOPN 4 5 DX
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 6.8544e-004
*
GPC 31 0 7 50 1.0000e+001
DPC1 3 31 DVC
DPC2 32 4 DVC
RPC1 31 32 1.0E6
RPC2 31 33 9.7531
EPC 33 32 3 4 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL Q1 PNP (IS=1.0016e-015 BF=60969.9 XTB=-7.3897e+000 XTI=3.00712e+000 KF=2.0803e-014)
.MODEL Q2 PNP (IS=9.9842e-016 BF=182909.8 XTB=-7.3897e+000 XTI=2.99288e+000 KF=2.0803e-014)
.MODEL DR D (IS=8.2592e-016 KF=6.4391e-017 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.ENDS LT1800MD
